US07435837B2
(±)-1-{[5-chloro-7-(2,6-dimethylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}piperidine
The title compound was prepared (0.095 g, 72%) following the general procedure of Example 390 as a white solid, hydrochloride salt from (±)-([5-chloro-7-(2,6-dimethylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.15 g, 0.338 mmol) and piperidine (0.58 g, 6.76 mmol). mp >235° C.

reactant | [5-chloro-7-(2,6-dimethylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.338 mmol, 0.15 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2C2=C(C=CC=C2C)C)Cl | C24H23ClO4S
reactant | piperidine | 6.76 mmol, 0.58 g | N1CCCCC1 | C5H11N
product | (±)-1-{[5-chloro-7-(2,6-dimethylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}piperidine | ClC=1C=C(C2=C(CC(O2)CN2CCCCC2)C1)C1=C(C=CC=C1C)C | C22H26ClNO
